### PR TITLE
Add work-in-progress Lean formalization

### PR DESCRIPTION
**Pull request by daira**

### CODE REVIEW

**Comment by shielded-nate** [comment]
I hereby volunteer to be a reviewer for this PR with the two big caveats:

1. My availability is quite uncertain, perhaps no cycles until early 2026.
2. I don't have Lean experience (some haskell-perspective on dependent types, a smidgen of reading Coq examples like 10 years ago), so my review will likely be full of many basic questions, which might be good for security proofs!

If that schedule doesn't work for this PR, then I'd like to capture my review notes elsewhere in this repo (after this PR and subsequent changes are merged).

File: TFL/BcChain.lean [hunk 1]
```diff
@@ -0,0 +1,139 @@
...
+
+/-- If a ≼ c ∧ b ≼ c then a ≼≽ b. -/
+public lemma linear_prefix (a b c : BcChain) (hac : a ≼ c) (hbc : b ≼ c) : a ≼≽ b := by
+  simp_all [bc_agrees, bc_prefix, bc_rep_suffix]
+  exact List.suffix_or_suffix_of_suffix hac hbc
+
+/--
+An execution of Π_bc has Agreement on the view `V : Node → Time → BcChain` iff
+for all times `t`, `u` and all Π-nodes `i`, `j` (potentially the same) such that
+`i` is honest at time `t` and `j` is honest at time `u`, we have `V i t ≤≥ V j u`.
```
Comment (oxarbitrage) [inline TFL/BcChain.lean]:
```suggestion
`i` is honest at time `t` and `j` is honest at time `u`, we have `V i t ≼≽ V j u`.
```

File: TFL/BftChain.lean [hunk 2]
```diff
@@ -0,0 +1,86 @@
...
+This representation is opposite to the order in the book, sorry.
+-/
+public def BftChain := List BftBlock
+
+/--
+Trim the most recent `k` blocks.
+
+Since chains are represented tip-first, this is implemented by dropping the first
+`k` elements.
+-/
```
Comment (oxarbitrage) [inline TFL/BftChain.lean:29]:
```suggestion

TODO: this definition works for any chain type; generalize it.
-/
```

There are several definitions that can be generalized (`bft_prefix`, `bc_tip`, etc). Do we want to have a `Definitions.lean` in the future for some of those?

File: TFL/BcChain.lean [hunk 3]
```diff
@@ -0,0 +1,139 @@
...
+local infix:50 "≼≽" => bc_agrees
+
+/-- Two bc-chains conflict iff neither is a prefix of the other. -/
+public def bc_conflicts (a b : BcChain) := ¬(a ≼≽ b)
+
+/-- Local notation for bc-chain conflict. -/
+local infix:50 "≼/≽" => bc_conflicts
+
+/-- If a ≼ c ∧ b ≼ c then a ≼≽ b. -/
+public lemma linear_prefix (a b c : BcChain) (hac : a ≼ c) (hbc : b ≼ c) : a ≼≽ b := by
```
Comment (oxarbitrage) [inline TFL/BcChain.lean:91]: This is true for any chain type. Will be good to add it to the `Bftchain` file too, as we have no lemmas there atm.

File: TFL/BftChain.lean [hunk 4]
```diff
@@ -0,0 +1,86 @@
...
+public def BftAgreement (V : Node → Time → BftChain) (honest : Node → Time → Bool) :=
+  ∀ (i j : Node) (t u : Time) (_honest_i : honest i t) (_honest_j : honest j u), V i t ≼≽ V j u
+
+/--
+An execution of `Π_bft` has Agreement on the view `V : Node × Time → U` composed with
+`f : U → BftChain` iff it has Agreement on `fun i t => f (V i t)`.
+
+TODO: this definition works for any chain type; generalize it.
+-/
+public def ComposedBftAgreement {U : Type} (V : Node → Time → U) (f : U → BftChain) :=
```
Comment (oxarbitrage) [inline TFL/BftChain.lean:79]: I think this definition is not in the book. Should we add it there?

File: .github/workflows/lean_action_ci.yml
Comment (oxarbitrage) [inline .github/workflows/lean_action_ci.yml:1]: Will be good to auto generate docs from the lean code and publish somewhere.

File: TFL/BftChain.lean [hunk 5]
```diff
@@ -0,0 +1,86 @@
+import Mathlib.Logic.Basic
+import Mathlib.Order.Monotone.Basic
+
+import Mathlib.Tactic
+
+import TFL.LCA
```
Comment (oxarbitrage) [inline TFL/BftChain.lean:6]:
```suggestion
import TFL.BcChain
```

No need to import `LCA` here but just `BcChain` will do it.

**Review by oxarbitrage — APPROVED** [review]
Great start, thanks for pushing this forward. I’ve left a few optional suggestions and questions inline.
I’d love to contribute more to this Lean formalization, including taking a pass at some of the current sorrys, and to help across the repo more broadly. I’m not sure what the most convenient way to coordinate is (issues, pr's, a short sync, or something else) so I’m happy to follow your lead, @daira, if you think that would add value.

File: TFL/BftChain.lean (hunk 2 above)
Comment (daira) [reply TFL/BftChain.lean:29]: Those are supposed to be in `LCA.lean` (I might rename it to `Chain.lean`).

File: TFL/BftChain.lean [hunk 6]
```diff
@@ -0,0 +1,86 @@
...
+public def bft_trim (ch : BftChain) (k : ℕ) : BftChain := ch.drop k
+local infix:60 "⎾" => bft_trim
+
+/--
+Since chains are represented tip-first, `a ≼ b` if the `List` representing `a` is
+a suffix of the `List` representing `b`.
+-/
+public def bft_prefix (a b : BftChain) := a <:+ b
+
+/-- Local notation for bft-chain prefix, making the dependency on `NC` implicit. -/
```
Comment (daira) [inline TFL/BftChain.lean]:
```suggestion
/-- Local notation for bft-chain prefix. -/
```

File: TFL/BftChain.lean (hunk 4 above)
Comment (daira) [reply TFL/BftChain.lean:79]: IIRC this is not really needed in the book, it's just to make some definitions tidier in Lean.

File: lakefile.toml [hunk 7]
```diff
@@ -0,0 +1,18 @@
+name = "TFL"
+version = "0.1.0"
+description = "A formalization of the Crosslink 2 hybrid consensus protocol."
+keywords = ["math", "cryptography", "proof-of-work", "consensus"]
+homepage = "https://github.com/Electric-Coin-Company/tfl-book"
```
Comment (daira) [inline lakefile.toml]:
```suggestion
homepage = "https://github.com/daira/tfl-book"
```

File: lean-toolchain [hunk 8]
```diff
@@ -0,0 +1 @@
+leanprover/lean4:v4.22.0-rc3
```
Comment (daira) [inline lean-toolchain:1]: Update this.

File: TFL/Time.lean [hunk 9]
```diff
@@ -0,0 +1,11 @@
+import Mathlib.Logic.Basic
+
+/--
+Making `Time` an abbrev for `ℕ` simplifies things by allowing us to assume that
+state can be reconstructed by running the sequence of updates for each time step.
+
+Recall that [[Clinger 1981]](https://dspace.mit.edu/handle/1721.1/6935) proves that
```
Comment (daira) [inline TFL/Time.lean]:
```suggestion
[[Clinger 1981]](https://dspace.mit.edu/handle/1721.1/6935) proves that
```
